US06093734
5-Difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylsulfinyl]-1H-benzimidazole, sodium salt sesquihydrate (432 mg, 1 mmole) was suspended in 30 ml of dichloromethane in the presence of anhydrous sodium carbonate (100 mg). 4-Chlorobenzenesulfonyl chloride (211 mg, 1 mmole) was added to the suspension and stirred at 4° C. overnight. The organic layer was separated by filtration and concentrated under reduced pressure. The residual solid was crystallized from dichloromethane-ethyl ether-heptane. 417 mg of 1-(4-chlorobenzenesulfonyl)-5-difluoromethoxy-2- [(3,4-dimethoxy-2-pyridyl)methylsulfinyl]-1H-benzimidazole was obtained. Yield 74.5%.

reactant | 5-Difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylsulfinyl]-1H-benzimidazole | FC(OC1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OC)C=C1)F | C16H15F2N3O4S
reactant | sodium | 1 mmole, 432 mg | [Na] | Na
reactant | sodium carbonate | 100 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-Chlorobenzenesulfonyl chloride | 1 mmole, 211 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(4-chlorobenzenesulfonyl)-5-difluoromethoxy-2- [(3,4-dimethoxy-2-pyridyl)methylsulfinyl]-1H-benzimidazole | 417 mg, Yield 74.5% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(=NC2=C1C=CC(=C2)OC(F)F)S(=O)CC2=NC=CC(=C2OC)OC | C22H18ClF2N3O6S2
